US09334263B2
To a solution of 4-(5-(difluoro(phenyl)methyl)pyrimidin-2-yl)piperazine-1-carboxylate (180 mg, 0.42 mmol) in chloroform (5.0 mL) was added iodotrimethylsilane (0.8 mL) and the mixture was stirred at room temperature for 0.5 h. The reaction was quenched by methanol (1.0 mL), followed by the addition of 2 N HCl/dioxane (2.0 mL) and evaporated to dryness. The residue was dissolved in methanol (1.5 mL) and dropwise added into acetone (100 mL). The solid was collected by filtration and washed with acetone (10 mL) to afford crude 5-(difluoro(phenyl)methyl)-2-(piperazin-1-yl)pyrimidine (88 mg) as a yellow solid. MS (ES+) C15H16F2N4 requires: 290, found: 291 [M+H]+.

reactant | 4-(5-(difluoro(phenyl)methyl)pyrimidin-2-yl)piperazine-1-carboxylate | 0.42 mmol, 180 mg | FC(C=1C=NC(=NC1)N1CCN(CC1)C(=O)[O-])(C1=CC=CC=C1)F
reactant | iodotrimethylsilane | 0.8 mL | I[Si](C)(C)C | C3H9ISi
solvent | chloroform | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(difluoro(phenyl)methyl)-2-(piperazin-1-yl)pyrimidine | 88 mg | FC(C=1C=NC(=NC1)N1CCNCC1)(C1=CC=CC=C1)F | C15H16F2N4
